US07338959B2
2-(4-{4-[(2-Benzylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-ethanesulfonic acid methylamide hydrochloride
The title compound was prepared following the procedure of Example 1 with N2-benzyl-N5-(2-chloropyrimidin-4-yl)-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (95 mg, 0.25 mmol) and 2-(4-amino-phenyl)-ethanesulfonic acid methylamide (54 mg, 0.25 mmol) to give the desired product as a white solid (49 mg, 33%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.97 (br s, 1H), 9.34 (br s, 1H), 7.85 (d, J=6.6 Hz, 1H), 7.49-7.59 (m, 5H), 7.25-7.37 (m, 4H), 7.17 (d, J=8.1 Hz, 3H), 7.03 (q, J=5.4 Hz, 1H), 5.77 (d, J=6.6 Hz, 1H), 4.74 (d, J=5.1 Hz, 2H), 3.72 (s, 3H), 3.46 (s, 3H), 3.21-3.27 (m, 2H), 2.85-2.91 (m, 2H), 2.58 (d, J=4.8 Hz, 3H). MS (ESI) m/z=557 [M+H]+.

reactant | N2-benzyl-N5-(2-chloropyrimidin-4-yl)-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.25 mmol, 95 mg | C(C1=CC=CC=C1)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C20H19ClN6
reactant | 2-(4-amino-phenyl)-ethanesulfonic acid methylamide | 0.25 mmol, 54 mg | CNS(=O)(=O)CCC1=CC=C(C=C1)N | C9H14N2O2S
product | 2-(4-{4-[(2-Benzylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-ethanesulfonic acid methylamide hydrochloride | 49 mg, 33% | Cl.CNS(=O)(=O)CCC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C)C1=CC2=C(N(C(=N2)NCC2=CC=CC=C2)C)C=C1 | InChI=1S/C29H32N8O2S.ClH/c1-30-40(38,39)18-16-21-9-11-23(12-10-21)33-28-31-17-15-27(35-28)36(2)24-13-14-26-25(19-24)34-29(37(26)3)32-20-22-7-5-4-6-8-22;/h4-15,17,19,30H,16,18,20H2,1-3H3,(H,32,34)(H,31,33,35);1H
